US07750003B2
Phenyl N-[4-[4-[2-(4-chlorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate
Phenyl chloroformate (0.256 mL, 2.04 mmol) was added dropwise to 4-[4-[2-(4-chlorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline (850 mg, 1.85 mmol) and sodium hydrogencarbonate (233 mg, 2.78 mmol) in dioxane (20 mL) at RT. The resulting suspension was stirred at RT for 2 hours. The reaction mixture was diluted with ethyl acetate (100 mL) and washed with water (2×100 mL) and saturated brine (50 mL). The organic layer was dried (MgSO4), filtered and evaporated. The crude product was purified by flash silica chromatography, elution gradient 30 to 50% ethyl acetate in isohexane. Pure fractions were evaporated to dryness to afford the desired material as a white solid (955 mg).

reactant | Phenyl chloroformate | 2.04 mmol, 0.256 mL | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 4-[4-[2-(4-chlorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]aniline | 1.85 mmol, 850 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(N)C=C1 | C24H27ClN4O3S
reactant | sodium hydrogencarbonate | 2.78 mmol, 233 mg | C(O)([O-])=O.[Na+]
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | Phenyl N-[4-[4-[2-(4-chlorophenyl)sulfonylpropan-2-yl]-6-[(3S)-3-methylmorpholin-4-yl]pyrimidin-2-yl]phenyl]carbamate | 955 mg | ClC1=CC=C(C=C1)S(=O)(=O)C(C)(C)C1=NC(=NC(=C1)N1[C@H](COCC1)C)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O | C31H31ClN4O5S
